US04042618
A 300-ml. beaker is charged with 18.4 parts of glycerin and 1.7 parts of sodium hydroxide. The mixture is heated to 95° C. while being stirred magnetically. To the beaker then is added 13.7 parts of 4-sodiosulfobenzyl bromide and the temperature is maintained at 95° C. for 3 hours. The viscous reaction solution then is added to 300 parts of water. The aqueous solution is concentrated to about one-tenth of its original volume and 250 parts of dimethyl sulfoxide added; isopropanol, about 200 parts, is then added resulting in a white, fluffy precipitate which is isolated by centrifugation. The solid is taken up in about 320 parts of an ethanol-methanol mixture, the volume reduced by about 25%, and isopropanol added. The product was isolated by centrifugation and dried at 60° C. under reduced pressure. The product, 3-(p-sodiosulfobenzyloxy)-1,2-propanediol, is obtained in a yield of 3 parts and has the following analysis:

reactant | glycerin | OCC(O)CO | C3H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-sodiosulfobenzyl bromide | [Na]C1=CC=C(C(S(=O)(=O)O)Br)C=C1
reactant | water | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ethanol methanol | C(C)O.CO
product | 3-(p-sodiosulfobenzyloxy)-1,2-propanediol | [Na]C1=CC=C(C(OCC(CO)O)S(=O)(=O)O)C=C1 | InChI=1S/C10H13O6S.Na/c11-6-9(12)7-16-10(17(13,14)15)8-4-2-1-3-5-8;/h2-5,9-12H,6-7H2,(H,13,14,15);
